### PR TITLE
feat(Analysis/Calculus/FDeriv): continuous differentiability from continuous partial derivatives on an open domain in a product space

### PR DESCRIPTION
**Pull request by igorkhavkine**
If a function `f : E × F → G` is continuously differentiable, then its partial derivatives along `E` and `F` are also continuous. The non-trivial converse implication holds when the partial derivatives are continuous on an open domain, and they can be added together to give the total derivative of `f`. See this [#mathlib4 > Partial derivatives @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Partial.20derivatives/near/520995477) and the containing thread for some discussion. The PR creates a new import (`Mathlib.Analysis.Calculus.FDeriv.Partial`), where other results about partial derivatives could go in the future.

---

*this is the migration of  #25304 to the PR-from-fork workflow*

- [x] depends on: #25564
- [x] depends on: #26273

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean [hunk 1]
```diff
@@ -0,0 +1,309 @@
...
+theorem HasFDerivWithinAt.partial_fst
+  {𝕜 : Type*} [NontriviallyNormedField 𝕜]
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+  {F : Type*} [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+  {G : Type*} [NormedAddCommGroup G] [NormedSpace 𝕜 G]
+  {f : E × F → G} {f' : E × F → E × F →L[𝕜] G}
+  {s : Set E} {t : Set F}
+  {z : E × F} (hz : z ∈ s ×ˢ t)
+  (hf : HasFDerivWithinAt f (f' z) (s ×ˢ t) z) :
+      HasFDerivWithinAt (f ∘ (·, z.2)) ((f' z) ∘L (.inl _ _ _)) s z.1 := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Calculus/FDeriv/Partial.lean]:
```suggestion
      HasFDerivWithinAt (f ∘ (·, z.2)) (f' z ∘L .inl _ _ _) s z.1 := by
```
Same below

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean [hunk 2]
```diff
@@ -0,0 +1,308 @@
...
+-/
+theorem hasFDerivWithinAt_of_partial_snd_continuousOn_prod_open
+  {𝕜 : Type*} [NontriviallyNormedField 𝕜] [IsRCLikeNormedField 𝕜]
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+  {F : Type*} [NormedAddCommGroup F] [NormedSpace ℝ F] [NormedSpace 𝕜 F]
+  {G : Type*} [NormedAddCommGroup G] [NormedSpace 𝕜 G]
+  {f : E × F → G} {s : Set E} {t : Set F} {z : E × F}
+  (hz : z ∈ s ×ˢ t) (ht : IsOpen t)
+  {f'xz : E →L[𝕜] G} {f'y : E × F → F →L[𝕜] G}
+  (hf'y_cont : ContinuousOn f'y (s ×ˢ t))
```
Comment (agjftucker) [inline Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: Isn't ContinuousWithinAt enough here?

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean [hunk 3]
```diff
@@ -0,0 +1,308 @@
...
+  (hf'xz : HasFDerivWithinAt (f ∘ (·, z.2)) f'xz s z.1)
+  (hf'y : ∀ z' ∈ s ×ˢ t, HasFDerivWithinAt (f ∘ (z'.1, ·)) (f'y z') t z'.2) :
```
Comment (agjftucker) [inline Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: Since t is open, this should be equivalent to just HasFDerivAt.

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean (hunk 2 above)
Comment (igorkhavkine) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: You are right, the proof only used this weaker hypothesis, which is how this result is stated in [some references](https://math.stackexchange.com/q/2983956). I've changed the hypothesis and updated the proof. Some new helper lemmas needed to be created (probably they will go into a separate PR) and the documentation in the file was updated accordingly.

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean (hunk 3 above)
Comment (igorkhavkine) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: Right, for open sets they are the same. I hadn't fully appreciated the difference when I wrote the proof. I've made the corresponding changes.

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean [hunk 4]
```diff
@@ -0,0 +1,334 @@
...
+   by combining `Continuous(|At|On|WithinAt).clm_comp` and `Continuous(|At|On|WithinAt)_const`.
+
+* `hasFDerivWithinAt_of_partial_snd_continuousWithinAt_prod_open` : a weak sufficient condition
+  for differeniability of `f` at `z = (x,y)` is that, say, the first derivative (within set `s`)
+  `f'xz` exists at `z`, while the second partial derivative `f'y z` exists and is jointly
+  continuous at `z` in the product set `s ×ˢ t` where `t` is open, with the derivative given by
+  `f'z = f'xz.coprod (f'y z)`. `hasFDerivWithinAt_of_partial_fst_continuousWithinAt_prod_open` has
+  the roles of the partial derivatives reversed.
+
+  The proofs follow §9.8.1 from Dieudonné's *Foundations of Modern Analysis* (1969).
```
Comment (agjftucker) [inline Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: Hi again! I found the 1960 edition in the library and in that this result is at 8.9.1 not 9.8.1. In any case I'm pretty sure you could find a shorter proof of `hasFDerivWithinAt_of_partial_snd_continuousWithinAt_prod_open` if you felt able to disregard Dieudonné and instead begin from `hasFDerivWithinAt_uncurry_of_continuousWithinAt_snd` in [this](https://github.com/agjftucker/mathlib4/blob/agjftucker/implicit/Mathlib/Analysis/Calculus/FDeriv/Partial.lean) WIP branch.

Comment (igorkhavkine) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: Thanks for the comment. Apologies for the slow reply. Yes, the theorem numbering is a typo, sorry. It seems to me that the theorems you prove in your WIP branch `hasStrictFDerivAt_uncurry_coprod` and `hasFDerivWithinAt_uncurry_coprod_of_continuousWithinAt_snd` are basically the same as what I proved in `hasFDerivWithinAt_continuousWithinAt_of_partial_continuousWithinAt_open` and `hasFDerivWithinAt_of_partial_snd_continuousWithinAt_prod_open`. At least I can't imagine that the logic is much different.

Sorry, I wasn't aware of your branch earlier. Did it predate my PR? Your proofs do look more streamlined than mine. What do you think should be done with these PRs given some amount of overlap?

Comment (agjftucker) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: Well the ‘implicit’ branch has existed since last September (forgotten most of that time), but as we discussed on Zulip, I hadn’t pushed any of these proofs. I only did so when I saw that your work was not going to cover the fact about strict differentiability that I wanted for the IFT. Then I guess I got carried away refactoring and ended up also proving the statement that looks a bit like yours.

We should combine our work! If you give me write access, I’ll push my four theorems to the top of your file. Then, if it suits, you could make use of them in what remains. Like you, I started with `(x, y) : E × F` but found it unnecessarily confusing when combined with projection notation. So let’s go with `(x₁, x₂) : E₁ × E₂` instead (i.e. what’s currently in my branch).

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean [hunk 5]
```diff
@@ -0,0 +1,470 @@
...
+
+variable {𝕜 E₁ E₂ F : Type*} [NontriviallyNormedField 𝕜]
+variable [NormedAddCommGroup E₁] [NormedAddCommGroup E₂] [NormedAddCommGroup F]
+variable [NormedSpace 𝕜 E₁] [NormedSpace 𝕜 E₂] [NormedSpace 𝕜 F]
+
+/-- If a bivariate function `f` has partial derivatives `f₁` and `f₂` in a neighbourhood of a point
+`(x₁, x₂)` and if they are continuous at that point then the uncurried function `↿f` is strictly
+differentiable there with its derivative mapping `(h₁, h₂)` to `f₁ x₁ x₂ h₁ + f₂ x₁ x₂ h₂`. -/
+theorem hasStrictFDerivAt_uncurry_coprod
+    [IsRCLikeNormedField 𝕜] {f : E₁ → E₂ → F} {x₁ : E₁} {x₂ : E₂}
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: Instead of using two points x_1 and x_2, could you use a single point x in E_1 \times E_2, with x.1 and x.2? This is strictly more general, as otherwise your statement wouldn't apply directly to a point which is not written as a pair (x_1, x_2).

Same thing below.

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: In addition to giving a reference, could you sketch the proofs that you are implementing? I wouldn't expect a reader to go and open Dieudonne, so sketching the argument is always helpful.

Also, it's not completely clear to me if you are both happy with the current state of the PR, or if there are things you want to merge/improve. Could you tell about the current state of affairs?

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean [hunk 6]
```diff
@@ -0,0 +1,470 @@
...
+          _ =O[𝓝[s₁ ×ˢ s₂] (x₁, x₂)] fun y => (y.1 - x₁, y.2 - x₂) := by
+            simp [isBigO_of_le]
+
+open Set Function Metric
+
+section PartialFDeriv
+
+/-- Differentiable implies also that the first partial derivative exists. -/
+theorem HasFDerivWithinAt.partial_fst
+  {f : E₁ × E₂ → F} {f' : E₁ × E₂ → E₁ × E₂ →L[𝕜] F}
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: From this point on in the PR, indentation is often off. Could you have a look and try to fix it?

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean [hunk 7]
```diff
@@ -0,0 +1,470 @@
...
+      (fun v hv => mem_prod.mpr ⟨(mem_prod.mp hx).left, hv⟩)
+
+/-- If a function `f : E₁ × E₂ → F` has a first partial derivative (within set `s₁`) `f₁x` at `x`
+and has a second partial derivative (within open set `s₂`) `f₂` continuous on `s₁ ×ˢ s₂`,
+then `f` has a derivative at `x`, with the derivative given by `f'x = f₁x.coprod (f₂ x)`.
+
+See `hasFDerivWithinAt_of_partial_fst_continuousWithinAt_prod_open` for the order of derivatives
+swapped.
+-/
+theorem hasFDerivWithinAt_of_partial_snd_continuousWithinAt_prod_open
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Partial.lean:202]: I'm a little bit confused: how does this theorem relate to hasFDerivWithinAt_uncurry_coprod_of_continuousWithinAt_snd?

**Review by sgouezel — COMMENTED** [review]
Nice, thanks!

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean (hunk 5 above)
Comment (agjftucker) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: I am certainly happy to do this! But I'm also a little curious as to the rationale. It looks to me as if Lean can itself break apart an element `x : E₁ × E₂` so as to use a statement like this one. For example the following already works:
```
variable {𝕜 E₁ E₂ F : Type*} [NontriviallyNormedField 𝕜] [IsRCLikeNormedField 𝕜]
  [NormedAddCommGroup E₁] [NormedSpace 𝕜 E₁] [NormedAddCommGroup E₂] [NormedSpace 𝕜 E₂]
  [NormedAddCommGroup F] [NormedSpace 𝕜 F]

variable {f : E₁ → E₂ → F} {f₁ : E₁ → E₂ → E₁ →L[𝕜] F} {f₂ : E₁ → E₂ → E₂ →L[𝕜] F} {x : E₁ × E₂}
  (cf₁ : ContinuousAt ↿f₁ x) (df₁ : ∀ᶠ y in 𝓝 x, HasFDerivAt (f · y.2) (f₁ y.1 y.2) y.1)
  (cf₂ : ContinuousAt ↿f₂ x) (df₂ : ∀ᶠ y in 𝓝 x, HasFDerivAt (f y.1 ·) (f₂ y.1 y.2) y.2)

#check (hasStrictFDerivAt_uncurry_coprod cf₁ df₁ cf₂ df₂ : HasStrictFDerivAt ↿f ((↿f₁ x).coprod (↿f₂ x)) x)
```

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean (hunk 7 above)
Comment (agjftucker) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean:202]: Well `hasFDerivWithinAt_uncurry_coprod_of_continuousWithinAt_snd` is the more general version but perhaps it’s still worth keeping this? I don’t know. The only result I actually wanted for another purpose was the one on strict differentiability. Your opinion on the value of this and other theorems would be very welcome!

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean (hunk 4 above)
Comment (agjftucker) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: Thanks for the preliminary review! Igor told me last week in DMs that he will be on holiday for a couple of weeks. For me, this PR still requires some work to integrate our contributions. As I said above, I think some of the proofs below the four newly introduced theorems could be made shorter by using them and some hypotheses could be dropped. Maybe even some theorems.

Comment (agjftucker) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: > I think some of the proofs below the four newly introduced theorems could be made shorter by using them

After reorganisation, these four have become three at the top of Calculus.FDeriv.Partial and two at the bottom of Normed.Module.Convex.

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean (hunk 6 above)
Comment (agjftucker) [reply Mathlib/Analysis/Calculus/FDeriv/Partial.lean]: @igorkhavkine Arguments count as part of the statement so they should also be indented four spaces from the left margin. Also we have problems with CI but merging master might fix it according to Zulip. Best of luck with this PR! Back in September.

**Comment by igorkhavkine** [comment]
@agjftucker No, worries. Thanks for cleaning up a bit. I should really get back to this soon!
